US04835175
2.8 g of 4-chloroacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester is combined with 1.5 ml of allylamine and 15 ml of absolute dimethyl sulfoxide and stirred at room temperature for one hour. Then 150 ml of 2N hydrochloric acid is added to the reaction mixture, the immediately formed precipitate is vacuum-filtered, and the filtrate is allowed to stand and thus yields, in crystalline form, 1.5 g of 4-allylaminoacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride, mp 264°-265° C. (decomposition).

reactant | 4-chloroacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester | 2.8 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CCl)=O)O | C13H12ClNO4
reactant | allylamine | 1.5 ml | C(C=C)N | C3H7N
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-allylaminoacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride | 1.5 g | Cl.C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNCC=C)=O)O | InChI=1S/C16H18N2O4.ClH/c1-3-7-17-9-14(20)10-5-6-13(19)15-11(10)8-12(18-15)16(21)22-4-2;/h3,5-6,8,17-19H,1,4,7,9H2,2H3;1H
